US09388173B2
Step 5: 1-(3-(1H-benzo[d]imidazol-4-yl)phenoxy)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol
A mixture of 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-4-yl)phenoxy)propan-2-ol (265 mg, 0.5 mmol) in EtOH (20 mL) and conc. HCl (1 mL) was stirred at 80° C. overnight. The reaction was adjusted to pH 9 by aq. NaHCO3. The mixture was then extracted with DCM and the combined organic layers dried over Na2SO4 and concentrated to give the crude product. The crude product was purified by pre-HPLC to afford the desired product (50 mg, Yield 25%). 1H NMR (400 MHz, DMSO-d6) δ 8.43 (s, 1H), 8.35 (s, 2H), 7.65 (br.s, 2H), 7.49 (m, 1H), 7.21 (dd, J=7.6 Hz, 1H), 7.12-7.06 (m, 5H), 4.53-4.39 (m, 3H), 4.14 (s, 2H), 2.83-2.57 (m, 6H). LCMS (m/z): 400.1 (M+1).

reactant | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-4-yl)phenoxy)propan-2-ol | 0.5 mmol, 265 mg | C1N(CCC2=CC=CC=C12)CC(COC1=CC(=CC=C1)C1=CC=CC=2N(C=NC21)COCC[Si](C)(C)C)O | C31H39N3O3Si
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | HCl | 1 mL | Cl | ClH
product | 1-(3-(1H-benzo[d]imidazol-4-yl)phenoxy)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol | 50 mg, Yield 25% | N1C=NC2=C1C=CC=C2C=2C=C(OCC(CN1CC3=CC=CC=C3CC1)O)C=CC2 | C25H25N3O2
